US07485283B2
7d. 2-(4-tertbutylbenzylmercapto)-3-methyl-5-hydroxy chromen-4-one
A 50 mL round bottomed flask is charged with 2-(4-tertbutylbenzylmercapto)-3-methyl-5-tertbutoxy chromen-4-one (10 g, 24.3 mmol). To this is then added anhydrous trifluoroacetic acid (15 mL) and the reaction mixture is stirred for 8 hours at 0° C. Dichloromethane is then added to the flask and the mixture poured into a separatory funnel. It is then washed with water and then with brine and dried over sodium sulfate and filtered. The filtrate is then concentrated in vacuo and the residue obtained is purified by silica gel flash chromatography (ethyl acetate:hexanes) to obtain the desired product.

reactant | 2-(4-tertbutylbenzylmercapto)-3-methyl-5-tertbutoxy chromen-4-one | 24.3 mmol, 10 g | C(C)(C)(C)C1=CC=C(CSC=2OC3=CC=CC(=C3C(C2C)=O)OC(C)(C)C)C=C1 | C25H30O3S
reactant | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | Dichloromethane | ClCCl | CH2Cl2
product | 2-(4-tertbutylbenzylmercapto)-3-methyl-5-hydroxy chromen-4-one | C(C)(C)(C)C1=CC=C(CSC=2OC3=CC=CC(=C3C(C2C)=O)O)C=C1 | C21H22O3S
